US07294644B2
Cyclopropylmethyl-2-methyl-5-(4-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid piperidin-1-ylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(4-trifluoromethoxy-phenyl)-ethanone as compound of formula S, cyclopropanemethylamine as R3-(CH2)m-NH2 and 1-piperidinamine as R1R2NH, MS (ISP) 422.3 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(4-trifluoromethoxy-phenyl)-ethanone | BrCC(=O)C1=CC=C(C=C1)OC(F)(F)F | C9H6BrF3O2
reactant | cyclopropanemethylamine | C1(CC1)CN | C4H9N
reactant | 1-piperidinamine | N1(CCCCC1)N | C5H12N2
product | Cyclopropylmethyl-2-methyl-5-(4-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid piperidin-1-ylamide | N1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=CC=C(C=C1)OC(F)(F)F)CC1CC1)C | C22H26F3N3O2
